US06194406B1
Combine methyl 2-methoxy-5-(t-butyldimethylsilyloxy)benzoate (11.1 g. 37.4 mmol) and ammonium fluoride (6.94 g, 0.187 mmol) in methanol (150 mL). Heat to reflux. After 1 hour, evaporate in vacuo to give a residue. Partition the residue between ethyl acetate and water, separate the layers, extract the organic layer with water and then brine. Dry the organic layer over MgSO4, filter, and evaporate in uacuo to give methyl 2-methoxy-5-hydroxybenzoate: mp; 110-112° C. Rf=0.27 (silica gel, 5% ethyl acetate/hexane).

reactant | methyl 2-methoxy-5-(t-butyldimethylsilyloxy)benzoate | 37.4 mmol, 11.1 g | COC1=C(C(=O)OC)C=C(C=C1)O[Si](C)(C)C(C)(C)C | C15H24O4Si
reactant | ammonium fluoride | 0.187 mmol, 6.94 g | [F-].[NH4+]
solvent | methanol | 150 mL | CO | CH4O
product | methyl 2-methoxy-5-hydroxybenzoate | COC1=C(C(=O)OC)C=C(C=C1)O | C9H10O4
